US04554351
(d) H-MeLeu-Ala-Bzl
46.8 g (115 mMol) BOC-MeLeu-Ala-Bzl are dissolved in 100 ml trifluoroacetic acid pre-cooled to 0° C. and allowed to stand for 1 hr. at 0° C. and 1/2 hr. at room temperature. The obtained solution is concentrated under vacuum, diluted with 500 ml methylene chloride, poured onto ice and washed with 300 ml saturated potassium carbonate solution. The aqueous phase is extracted with 200 ml methylene chloride, the combined organic phases dried over potassium carbonate, filtered and concentrated. The residue is chromatographed on 2 kg silica gel 60 (0.063-0.24 mm) using 5% methanol in methylene chloride as eluant to yield the title compound: rotation, [α]D25 =-44.5° (c=1.0 in chloroform).

reactant | BOC-MeLeu-Ala-Bzl | 115 mMol, 46.8 g | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C | C22H34N2O4
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | H-MeLeu-Ala-Bzl | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C | C17H26N2O2
